US08703936B2
5,10-dihydroindeno[1,2-b]indole (Compound 9)
A modified version of the method reported by Okamoto, et al. was employed. Okamoto, T. A.; Kobayashi, S. M.; Yamamoto, H. N., DE1952019, 1970. To a solution of 2-indanone (16.3 g, 123 mmol) in ethanol (80 mL) was added phenyl hydrazine (12.1 mL, 123 mmol) followed by acetic acid (12 drops) at room temperature. While stirring, the solution was warmed to reflux (oil bath at 85° C.) for 15 minutes at which point it was removed from the oil bath and allowed to cool to room temperature. Light yellow needle-like crystals precipitated from the solution. Upon cooling to room temperature, the solution was cooled to 0° C. for 30 minutes. The crystals were filtered via vacuum filtration and used without further purification.

reactant | 2-indanone | 123 mmol, 16.3 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | phenyl hydrazine | 123 mmol, 12.1 mL | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 80 mL | C(C)O | C2H6O
catalyst | acetic acid | 12 drops | C(C)(=O)O | C2H4O2
product | 5,10-dihydroindeno[1,2-b]indole | C1=C2CC3=C(NC=4C=CC=CC34)C2=CC=C1 | C15H11N
